US04151357
(E,Z,E), (E,E,E), (Z,Z,E) and (Z,E,E)-N-ethyl-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraenamide
Following the same manner as in Example 9, the reaction and after-treatment were conducted by using 1.1 g of (E,Z,E), (E,E,E), (Z,Z,E) and (Z,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraenoic acid, 350 mg of ethylamine hydrochloride, 0.80 ml of diphenylphosphoric acid azide and 1.0 ml of triethylamine in 6.0 ml of N,N-dimethylformamide to afford 780 mg of the end product.

reactant | (Z,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraenoic acid | OC/C(=C/CC\C(=C/C(=O)O)\C)/CC\C=C(\CCC=C(C)C)/C | C20H32O3
reactant | ethylamine hydrochloride | 350 mg | Cl.C(C)N
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 6.0 ml | CN(C=O)C | C3H7NO
product | (Z,E,E)-N-ethyl-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraenamide | 780 mg | C(C)NC(\C=C(/CC\C=C(/CC\C=C(\CCC=C(C)C)/C)\CO)\C)=O | C22H37NO2
